US07687628B2
When the TLC indicated the disappearance of 4-chloro-1-isobutyl-1H-imidazo(4,5-c)quinoline, the reaction mixture was cooled to room temperature resulting in a solid mass. 60 mL of water was added and the reaction mixture was stirred for 30 min. The solids were then separated by filtration and the solids were washed with 20 mL of water. The solids were then dried in an oven at 85° C. resulting in 11.3 grams (90% yield) of 4-(N-benzylamino)-1-isobutyl-1H-imidazo(4,5-c)quinoline.

reactant | 4-chloro-1-isobutyl-1H-imidazo(4,5-c)quinoline | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | C14H14ClN3
solvent | water | 60 mL | O | H2O
product | 4-(N-benzylamino)-1-isobutyl-1H-imidazo(4,5-c)quinoline | 11.3 grams, 90% yield | C(C1=CC=CC=C1)NC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | C21H22N4
